US08309580B2
(6) 3-({[4-({cyclohexyl[2-ethyl-5-(tetrahydro-2H-pyran-4-yl)thiophen-3-yl]methyl}amino)phenyl]carbonyl}amino)propanoic acid
To a mixture of 4-({cyclohexyl[2-ethyl-5-(tetrahydro-2H-pyran-4-yl)thiophen-3-yl]methyl}amino)benzoic acid (250 mg) synthesized above, ethyl β-alaninate hydrochloride (108 mg), 1-hydroxybenzotriazole monohydrate (108 mg) and triethylamine (98 μL) in N,N-dimethylformamide (10 mL) was added 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride (135 mg), and the mixture was stirred at room temperature for 2 hr. Saturated aqueous ammonium chloride solution was added to quench the reaction, and the mixture was extracted with ethyl acetate. The extract was washed with saturated brine, dried over magnesium sulfate, and concentrated under reduced pressure. The residue was purified by NH-silica gel column chromatography (ethyl acetate) to give a pale-yellow oil. To a mixture of the obtained oil, tetrahydrofuran (5 mL) and ethanol (5 mL) was added 1N aqueous sodium hydroxide solution (1 mL), and the mixture was stirred at room temperature for 3 hr, and concentrated under reduced pressure. The residue was dissolved in water (10 mL), and 1N hydrochloric acid (1 mL) was added at 0° C. The resulting precipitate was collected by filtration to give the title compound (158 mg, 54%) as a white solid.

reactant | 4-({cyclohexyl[2-ethyl-5-(tetrahydro-2H-pyran-4-yl)thiophen-3-yl]methyl}amino)benzoic acid | 250 mg | C1(CCCCC1)C(C1=C(SC(=C1)C1CCOCC1)CC)NC1=CC=C(C(=O)O)C=C1 | C25H33NO3S
reactant | ethyl β-alaninate hydrochloride | 108 mg | Cl.NCCC(=O)OCC
reactant | 1-hydroxybenzotriazole monohydrate | 108 mg | O.ON1N=NC2=C1C=CC=C2
reactant | 1-ethyl-3-(3-dimethylaminopropyl)carbodiimide hydrochloride | 135 mg | Cl.C(C)N=C=NCCCN(C)C
reactant | ammonium chloride | [Cl-].[NH4+]
reactant | sodium hydroxide | 1N, 1 mL | [OH-].[Na+]
solvent | N,N-dimethylformamide | 10 mL | CN(C=O)C | C3H7NO
solvent | ethanol | 5 mL | C(C)O | C2H6O
solvent | tetrahydrofuran | 5 mL | O1CCCC1 | C4H8O
solvent | triethylamine | 98 μL | C(C)N(CC)CC | C6H15N
product | 3-({[4-({cyclohexyl[2-ethyl-5-(tetrahydro-2H-pyran-4-yl)thiophen-3-yl]methyl}amino)phenyl]carbonyl}amino)propanoic acid | 158 mg, 54% | C1(CCCCC1)C(C1=C(SC(=C1)C1CCOCC1)CC)NC1=CC=C(C=C1)C(=O)NCCC(=O)O | C28H38N2O4S
